US09212187B2
Synthesis of N-(2-methylbenzyl)-N-(2-pyridin-3-ylethyl)-N-[3-(quinolin-6-yloxy)propyl]amine trihydrochloride
Sodium iodide (113 mg) was added to a DMF solution (5 ml) of N-(3-chloropropyl)-N-(2-methylbenzyl)-N-(2-pyridin-3-ylethyl)amine (151 mg), and stirred at 60° C. for 1 hours. The reaction mixture was cooled to room temperature. Potassium carbonate (104 mg) and 6-hydroxyquinoline (87 mg) were then added to the reaction mixture and stirred at 60° C. for 24 hours. The reaction mixture was added to ice water, and the extraction with ethyl acetate was performed. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1→0:1). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride in ethyl acetate solution(0.014 ml) was added to a ethyl acetate solution (1 ml) of the residue, and the liquid was stirred at room temperature. The precipitated insoluble product was separated, washed with ether, and dried to give the title compound(7.6 mg) as a brown powder.

reactant | Sodium iodide | 113 mg | [I-].[Na+]
reactant | N-(3-chloropropyl)-N-(2-methylbenzyl)-N-(2-pyridin-3-ylethyl)amine | 151 mg | ClCCCN(CCC=1C=NC=CC1)CC1=C(C=CC=C1)C | C18H23ClN2
reactant | Potassium carbonate | 104 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-hydroxyquinoline | 87 mg | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 0.014 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(2-methylbenzyl)-N-(2-pyridin-3-ylethyl)-N-[3-(quinolin-6-yloxy)propyl]amine trihydrochloride | 7.6 mg | Cl.Cl.Cl.CC1=C(CN(CCCOC=2C=C3C=CC=NC3=CC2)CCC=2C=NC=CC2)C=CC=C1 | InChI=1S/C27H29N3O.3ClH/c1-22-7-2-3-9-25(22)21-30(17-13-23-8-4-14-28-20-23)16-6-18-31-26-11-12-27-24(19-26)10-5-15-29-27;;;/h2-5,7-12,14-15,19-20H,6,13,16-18,21H2,1H3;3*1H
